US07888376B2
To a solution of (S)-tert-butyl-2-(3-(1-(5-chloropyridin-2-yl)-1-(4-fluoro-3-(trifluoromethyl)benzamido)-2-phenylethyl)-5-fluorophenoxy)acetate (27 mg, 0.04 mmol) in CH2Cl2 (1 mL) was added TFA (95 mg, 0.836 mmol). The mixture was stirred at room temperature for 2 h, and the solvent was removed to give (S)-2-(3-(1-(5-chloropyridin-2-yl)-1-(4-fluoro-3-(trifluoromethyl)benzamido)-2-phenylethyl)-5-fluorophenoxy)acetic acid as an white foam (25 mg, 100% yield). LCMS: RT=4.08 min [M+H] 591.46 (LCMS Method 1); 1H NMR (400 MHz, CDCl3) δ 3.69 (d, J=12.74 Hz, 1 H), 4.40 (d, J=13.18 Hz, 1 H), 6.53 (d, J=7.47 Hz, 3 H), 6.76 (d, J=9.23 Hz, 1 H), 6.91 (s, 1 H), 7.05 (t, J=7.47 Hz, 2 H), 7.15 (t, J=7.47 Hz, 7.25 −7.34 (m, 2 H), 7.78 (dd, J=8.57, 2.42 Hz, 1 H), 7.86 (ddd, J=8.68, 2.31, 2.20 Hz, 1 H), 7.91-7.98 (m, 1 H), 8.36 (d, J=2.20 Hz, 1 H), 9.30 (s, 1 H).

reactant | (S)-tert-butyl-2-(3-(1-(5-chloropyridin-2-yl)-1-(4-fluoro-3-(trifluoromethyl)benzamido)-2-phenylethyl)-5-fluorophenoxy)acetate | 0.04 mmol, 27 mg | C(C)(C)(C)OC(COC1=CC(=CC(=C1)F)[C@](CC1=CC=CC=C1)(NC(C1=CC(=C(C=C1)F)C(F)(F)F)=O)C1=NC=C(C=C1)Cl)=O | C33H28ClF5N2O4
reactant | TFA | 0.836 mmol, 95 mg | C(=O)(C(F)(F)F)O | C2HF3O2
solvent | CH2Cl2 | 1 mL | C(Cl)Cl | CH2Cl2
product | (S)-2-(3-(1-(5-chloropyridin-2-yl)-1-(4-fluoro-3-(trifluoromethyl)benzamido)-2-phenylethyl)-5-fluorophenoxy)acetic acid | 25 mg, 100% yield | ClC=1C=CC(=NC1)[C@@](CC1=CC=CC=C1)(NC(C1=CC(=C(C=C1)F)C(F)(F)F)=O)C=1C=C(OCC(=O)O)C=C(C1)F | C29H20ClF5N2O4
